US09422281B2
Intermediate 12. (S)-isopropyl 7-bromo-4-(cyclopropanecarbonyl)-3-methyl-3,4-dihydroquinoxalin-1(2H)carboxylate
A 100-mL round bottomed flask fitted with a nitrogen inlet and magnetic stir bar was charged with (S)-(6-bromo-2-methyl-3,4-dihydroquinoxalin-1 (2H)-yl)(cyclopropyl)methanone (0.62 g, 2.1 mmol), dichloroethane (25 mL), and pyridine (0.254 mL, 3.15 mmol). The mixture was cooled to 0° C. in an ice bath. A solution of isopropyl chloroformate (1 M in toluene, 2.52 mL, 2.52 mmol) was then added dropwise over several minutes. The reaction mixture was stirred for 30 min in an ice bath before warming to ambient temperature for 1 h. The reaction mixture was diluted with dichloromethane (20 mL) and washed with 1 M aqueous HCl solution (25 mL). The organic layer was separated and concentrated under reduced pressure. The oil was put through a silica pad using 1:1 hexane/ethyl acetate and the eluent was concentrated in vacuo. This afforded (S)-isopropyl 7-bromo-4-(cyclopropanecarbonyl)-3-methyl-3,4-dihydroquinoxalin-1(2H)carboxylate (0.83 g, 100%) as a solid, which was used directly in next step. MS (ESI, pos. ion) m/z 381, 383 [M+1]+.

reactant | (S)-(6-bromo-2-methyl-3,4-dihydroquinoxalin-1 (2H)-yl)(cyclopropyl)methanone | 2.1 mmol, 0.62 g | BrC=1C=C2NC[C@@H](N(C2=CC1)C(=O)C1CC1)C | C13H15BrN2O
reactant | dichloroethane | 25 mL | ClC(C)Cl | C2H4Cl2
reactant | pyridine | 3.15 mmol, 0.254 mL | N1=CC=CC=C1 | C5H5N
reactant | isopropyl chloroformate | 2.52 mmol, 1 M, 2.52 mL | ClC(=O)OC(C)C | C4H7ClO2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (S)-isopropyl 7-bromo-4-(cyclopropanecarbonyl)-3-methyl-3,4-dihydroquinoxalin-1(2H)carboxylate | BrC1=CC=C2N([C@H](CN(C2=C1)C(=O)OC(C)C)C)C(=O)C1CC1 | C17H21BrN2O3
